US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (856 mg, 1.71 mmol) was dissolved in acetonitrile (17.0 mL), and the solution was treated with (2-methoxyethyl)methylamine (2.76 mL, 25.7 mmol), acetic acid (1.47 mL, 25.7 mmol) and sodium triacetoxyborohydride (1.81 g, 8.56 mmol), followed by purification by flash column chromatography (chloroform/methanol=4/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-[N-(2-methoxyethyl)methylaminomethyl]indol-2-yl]isoindolinone (586 mg, 60%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 1.71 mmol, 856 mg | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | (2-methoxyethyl)methylamine | 25.7 mmol, 2.76 mL | COCCNC | C4H11NO
reactant | acetic acid | 25.7 mmol, 1.47 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 8.56 mmol, 1.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 17.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-[N-(2-methoxyethyl)methylaminomethyl]indol-2-yl]isoindolinone | 586 mg, 60% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN(CCOC)C)C(=O)OC(C)(C)C)=O | C28H35N3O8S
